US04560692
Alternative synthesis of the intermediate 4-chloro-2(4-chlorophenyl)quinoline
A mixture of 21.6 g of 2-(4-chlorophenyl)-4-quinolinol and 46 ml of phosphorus oxychloride was heated under reflux for 45 min., cooled to room temperature, and poured carefully onto 750 ml of ice water. This mixture was neutralized with 146 ml of 50% sodium hydroxide and extracted with 600 ml of methylene chloride in three portions. The extracts were combined, filtered through 15 g of Florisil, and concentrated in vacuo to leave 19.35 g of the above-named compound.

reactant | 2-(4-chlorophenyl)-4-quinolinol | 21.6 g | ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)O | C15H10ClNO
reactant | phosphorus oxychloride | 46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 146 ml | [OH-].[Na+]
product | 4-chloro-2(4-chlorophenyl)quinoline | 19.35 g | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C15H9Cl2N
